US07479488B2
31d (R)-3-(4-chloro-3,5-dimethyl-phenyl)-2-hydroxy-propionic acid
12.3 g (54.4 mmol) 3-(4-chloro-3,5-dimethyl-phenyl)-2-oxo-propionic acid in 130 mL THF and 7.6 mL (54.4 mmol) triethylamine were combined at −35° C. with a solution of 21.0 g (65.3 mmol) (1R)-B-chlorodiisopinocampheylborane in 65 mL THF within 30 min and stirred for 2 h at this temperature. After the reaction had ended the reaction mixture was made alkaline at 0° C. with 50 mL 1 M NaOH (exothermic), stirred for 3 h, combined with 30 mL TBME and the phases were separated. The organic phase was washed with 50 mL water and 30 mL 1 M NaOH. The combined aqueous phases were acidified with 2 M HCl and extracted with TBME. The organic phases were dried over Na2SO4 and evaporated down i. vac. The product was reacted further without purification.

reactant | 3-(4-chloro-3,5-dimethyl-phenyl)-2-oxo-propionic acid | 54.4 mmol, 12.3 g | ClC1=C(C=C(C=C1C)CC(C(=O)O)=O)C | C11H11ClO3
reactant | triethylamine | 54.4 mmol, 7.6 mL | C(C)N(CC)CC | C6H15N
reactant | NaOH | 1 M, 50 mL | [OH-].[Na+]
reactant | TBME | 30 mL | CC(C)(C)OC | C5H12O
solvent | THF | 130 mL | C1CCOC1 | C4H8O
solvent | THF | 65 mL | C1CCOC1 | C4H8O
product | (R)-3-(4-chloro-3,5-dimethyl-phenyl)-2-hydroxy-propionic acid | ClC1=C(C=C(C=C1C)C[C@H](C(=O)O)O)C | C11H13ClO3
